US07425568B2
6-Hydroxy-2-(2,6-Difluorophenyl)chroman-4-one was prepared as described for 2-(3-fluorophenyl)-6-hydroxychroman-4-one in Example 9(a) starting from 3.0 g of 2′,5′-dihydroxyacetophenone and 2.6 ml of 2,6-difluorobenzaldehyde. The product was triturated from ethanol. 1H NMR (400 MHz, d6-DMSO) δ: 7.55 (m, 1H) 7.22-7.18 (m, 2H), 7.14 (d, 1H, J 3.0 Hz), 7.03 (dd, 1H, J 8.9, 3.0 Hz), 6.93 (d, 1H, J 8.9 Hz), 5.84 (dd, 1H, J 14.0, 3.0 Hz), 3.38 (dd, 1H, J −17.0, 14.0 Hz), 2.80 (dd, 1H, J −17.0, 3.0 Hz).

reactant | 2-(3-fluorophenyl)-6-hydroxychroman-4-one | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11FO3
reactant | 2′,5′-dihydroxyacetophenone | 3.0 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | 2,6-difluorobenzaldehyde | 2.6 ml | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
product | 6-Hydroxy-2-(2,6-Difluorophenyl)chroman-4-one | OC=1C=C2C(CC(OC2=CC1)C1=C(C=CC=C1F)F)=O | C15H10F2O3
